US08212032B2
Step 3: cis-4-(methylamino)cyclohexanecarboxylic acid
A solution of cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]cyclohexane carboxylic acid (2.5 g, 16 mmol, 1.0 equiv) and 1 M HCl in dioxane (15 mL) was heated to reflux for 4 h. The solvent was removed under reduced pressure to afford 1.3 g of the title compound. This material was used without purification.

reactant | cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]cyclohexane carboxylic acid | 16 mmol, 2.5 g, 1.0 equiv | CC(C)(C)OC(=O)N([C@H]1CC[C@H](CC1)C(=O)O)C | C13H23NO4
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | cis-4-(methylamino)cyclohexanecarboxylic acid | 1.3 g | CN[C@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
